US07544697B2
A solution of acetyl chloride (0.150 g, 1.9 mmol) in ethanol (6.4 mL) was stirred for 15 minutes. 4-(2-Aminophenyl)-1,5-dimethyl-1H-pyrazole-3-carbonitrile (0.270 g, 1.27 mmol) was added, and the reaction was heated at reflux under a nitrogen atmosphere for two hours. A precipitate formed. The mixture was allowed to cool to ambient temperature and then cooled to 0° C. The solid was isolated by filtration, washed with diethyl ether, and dried to provide 285 mg of 1,2-dimethyl-2H-pyrazolo[3,4-c]quinolin-4-amine hydrochloride as a white solid, mp>250° C.

reactant | acetyl chloride | 1.9 mmol, 0.150 g | C(C)(=O)Cl | C2H3ClO
reactant | 4-(2-Aminophenyl)-1,5-dimethyl-1H-pyrazole-3-carbonitrile | 1.27 mmol, 0.270 g | NC1=C(C=CC=C1)C=1C(=NN(C1C)C)C#N | C12H12N4
solvent | ethanol | 6.4 mL | C(C)O | C2H6O
product | 1,2-dimethyl-2H-pyrazolo[3,4-c]quinolin-4-amine hydrochloride | 285 mg | Cl.CC=1N(N=C2C(=NC=3C=CC=CC3C21)N)C | InChI=1S/C12H12N4.ClH/c1-7-10-8-5-3-4-6-9(8)14-12(13)11(10)15-16(7)2;/h3-6H,1-2H3,(H2,13,14);1H
